US04539151
Preparation of 3-benzyloxycarbonylamino-2,3-dihydro-1,5-benzothiazepin-4(5H)-one
17.8 g of N-benzyloxycarbonyl-S-(2-aminophenyl)cysteine was dissolved in 250 ml of xylene and the resulting solution was heated under reflux for 4 hours. After the solvent was distilled off under reduced pressure, ether was added to the residue. The precipitated crystals were separated to obtain 12.1 g of the desired compound, or 3-benzyloxycarbonylamino-2,3-dihydro-1,5-benzothiazepin-4(5H)-one. Its melting point was 149°-151° C.

reactant | N-benzyloxycarbonyl-S-(2-aminophenyl)cysteine | 17.8 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](CSC1=C(C=CC=C1)N)C(=O)O | C17H18N2O4S
solvent | xylene | 250 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 3-benzyloxycarbonylamino-2,3-dihydro-1,5-benzothiazepin-4(5H)-one | 12.1 g | C(C1=CC=CC=C1)OC(=O)NC1CSC2=C(NC1=O)C=CC=C2 | C17H16N2O3S
